US08686189B2
Ethyl (1S,3R,4S)-4-amino-3-t-butoxycarbonylaminocyclohexanecarboxylate oxalate
7.5% Pd—C (100 mg) and ammonium formate (444.1 mg) were added at room temperature to a solution (10 mL) of ethyl (1S,3R,4S)-4-azido-3-[(t-butoxycarbonyl)amino]cyclohexanecarboxylate (1.0 g) in ethanol, followed by stirring at 50° C. for 1 hour. The catalyst was removed by filtration, and the filtrate was concentrated, to thereby yield 911.0 mg of crude ethyl (1S,3R,4S)-4-amino-3-t-butoxycarbonylaminocyclohexanecarboxylate. The crude product was dissolved in ethyl acetate (20 mL), and anhydrous oxalic acid (286.4 mg) was added to the solution, followed by stirring at room temperature for 16 hours. The formed crystals were recovered by filtration and dried, to thereby yield 1.16 g of the title compound.

reactant | ammonium formate | 444.1 mg | C(=O)[O-].[NH4+]
reactant | ethyl (1S,3R,4S)-4-azido-3-[(t-butoxycarbonyl)amino]cyclohexanecarboxylate | 10 mL, 1.0 g | N(=[N+]=[N-])[C@@H]1[C@@H](C[C@H](CC1)C(=O)OCC)NC(=O)OC(C)(C)C | C14H24N4O4
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd—C | 100 mg | [Pd] | Pd
product | Ethyl (1S,3R,4S)-4-amino-3-t-butoxycarbonylaminocyclohexanecarboxylate oxalate | C(C(=O)O)(=O)O.N[C@@H]1[C@@H](C[C@H](CC1)C(=O)OCC)NC(=O)OC(C)(C)C | InChI=1S/C14H26N2O4.C2H2O4/c1-5-19-12(17)9-6-7-10(15)11(8-9)16-13(18)20-14(2,3)4;3-1(4)2(5)6/h9-11H,5-8,15H2,1-4H3,(H,16,18);(H,3,4)(H,5,6)/t9-,10-,11+;/m0./s1
